US06242449B1
Ethyl 4-{3-{4-amino-3-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propoxy}benzoyl}indol-1-yl}butanoate hydrochloride (2.0 g) was dissolved in N,N-dimethylformamide (10 ml), and diphenylmethyl chloride (1.2 ml) and potassium carbonate (1.3 g) were added to the solution. The mixture was stirred at 90° C. for five hours. The reaction mixture was cooled and diluted with ethyl acetate (200 ml). The resultant mixture was sequentially washed with water and saturated brine, and dried and evaporated under reduced pressure. The resultant residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1), to thereby obtain 1.13 g of ethyl 4-{3-{4-diphenylmethylamino-3-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propoxy}benzoyl}indol-1-yl}butanoate as a pale yellow oil.

reactant | Ethyl 4-{3-{4-amino-3-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propoxy}benzoyl}indol-1-yl}butanoate hydrochloride | 2.0 g | Cl.NC1=C(C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)OCC)C=C1)OCCCN1CCN(CC1)C1=C(C=CC=C1)OC
reactant | diphenylmethyl chloride | 1.2 ml | C1(=CC=CC=C1)C(C1=CC=CC=C1)Cl | C13H11Cl
reactant | potassium carbonate | 1.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 4-{3-{4-diphenylmethylamino-3-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propoxy}benzoyl}indol-1-yl}butanoate | 1.13 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)NC1=C(C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)OCC)C=C1)OCCCN1CCN(CC1)C1=C(C=CC=C1)OC | C48H52N4O5
